US04894386
Trifluoroacetic acid (1.25 g) was added slowly to a stirred solution of methyl 4-[5-(2-carboxy-1 hydroxy-2-methylpropyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate 0.5 g) and triethylsilane (0.128 g) in carbon tetrachloride (7 ml) under an atmosphere of nitrogen. After 35 min, the mixture was poured into water and extracted with ethyl acetate. The combined organic extracts were washed (water (4 times), brine), dried (MgSO4) and evaporated to give a dark oil. The product was purified by flash chromatography, eluting with 90:10:2 toluene:ethyl acetate:acetic acid, to give methyl 4-[5-(2-carboxy-2-methylpropyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate as an oil (0.27 g, 56%): partial NMR (250 MHz, DMSO-d6): 0.82(t, 3H, CH2CH3), 1.02(s, 6H, C(CH3)2), 1.68(m, 2H, CH2CH3), 291(s, 2H, C(CH3)2CH2), 3.82(s, 3H, OCH3), 3.89(s, 3H, OCH3), 4.01(m, 4H, NCH2, ArCH2Ar'), 12.15(br s, about 1H, COOH).

reactant | Trifluoroacetic acid | 1.25 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 4-[5-(2-carboxy-1 hydroxy-2-methylpropyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 0.5 g | C(=O)(O)C(C(O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC)(C)C | C26H31NO6
reactant | triethylsilane | 0.128 g | C(C)[SiH](CC)CC | C6H16Si
reactant | water | O | H2O
solvent | carbon tetrachloride | 7 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 4-[5-(2-carboxy-2-methylpropyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 0.27 g, 56% | C(=O)(O)C(CC=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC)(C)C | C26H31NO5
